US04072756
4-[4-(9-xanthenylidene)piperidino]-2-butanone
One drop of tribenzylmethyl ammonium hydroxide is added to a solution of 7 g of 4-(9-xanthenylidene)-piperidine in 70 cc of ethanol, 4.38 cc of methylvinylketone are then added dropwise, and stirring is effected at 50° for 4 hours. The reaction mixture is then concentrated by evaporation in a vacuum, the residue is dissolved in chloroform, extraction is effected with water, and after drying over magnesium sulphate, concentration is effected by evaporation. The partially crystalline residue is triturated with ether/petroleum ether 1:1 and recrystallized from ethanol. M.P. of the title compound 111°-112°.

reactant | 4-(9-xanthenylidene)-piperidine | 7 g | C1=CC=CC=2OC3=CC=CC=C3C(C12)=C1CCNCC1 | C18H17NO
catalyst | tribenzylmethyl ammonium hydroxide | One drop | [OH-].C(C1=CC=CC=C1)C(CC1=CC=CC=C1)(CC1=CC=CC=C1)[NH3+]
solvent | ethanol | 70 cc | C(C)O | C2H6O
solvent | methylvinylketone | 4.38 cc | CC(=O)C=C | C4H6O
product | 4-[4-(9-xanthenylidene)piperidino]-2-butanone | C1=CC=CC=2OC3=CC=CC=C3C(C12)=C1CCN(CC1)CCC(C)=O | C22H23NO2
